US07425654B2
A dry ethyl ether 100 ml and dry toluene 100 ml solution of 4-bromotriphenylamine 16.2 g was cooled down to −78° C. under argon atmosphere, and a hexane solution 32.8 ml of 1.6M normal butyllithium was dropwise added thereto. The reaction solution was stirred for one hour while heating up to 0° C. The reaction solution was cooled down again to −78° C., and a dry ether 50 ml solution of triisopropyl borate 23.5 g was dropwise added thereto. The reaction solution was stirred at room temperature for 5 hours. 1N hydrochloric acid 100 ml was added thereto and stirred for one hour, and then the aqueous layer was removed. The organic layer was dried on magnesium sulfate, and the solvent was distilled off. The solid matter thus obtained was washed with hexane and toluene to obtain 10.2 g of triphenylamine-4-boronic acid.

reactant | 4-bromotriphenylamine | 16.2 g | C1=CC=C(C=C1)N(C2=CC=CC=C2)C3=CC=C(C=C3)Br | C18H14BrN
reactant | normal butyllithium | 1.6M | C(CCC)[Li]
reactant | triisopropyl borate | 23.5 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | hexane | 32.8 ml | CCCCCC | C6H14
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | triphenylamine-4-boronic acid | 10.2 g | B(C1=CC=C(C=C1)N(C2=CC=CC=C2)C3=CC=CC=C3)(O)O | C18H16BNO2
